US06262288B1
Preparation of (+)-methyl (R)-2-pentyl-2-cyclopenten-1-yl malonate
A suspension of racemic 2-(pentyl)-2-cyclopenten-1-ol (100 mg; 0.649 mmol), dimethylmalonate (100 mg; 0.757 mmol), ground KHCO3 (7 mg; 0.05 mmol), diisopropyl ether (1.8 ml) and lipase (100 mg) was stirred in a 10 ml flask at room temperature (20-23° C.). Results are shown in the table below. The reaction was followed by GC method and the ee was determined by treating samples collected at the times indicated with N-methyl-N-trimethylsilyl-trifluoracetamide in dipropyl ether to silylate unreacted alcohol and effecting a chiral GC analysis (Megadex 5).

reactant | racemic 2-(pentyl)-2-cyclopenten-1-ol | 0.649 mmol, 100 mg | C(CCCC)C=1C(CCC1)O | C10H18O
reactant | dimethylmalonate | 0.757 mmol, 100 mg | CC(C(=O)[O-])(C(=O)[O-])C
reactant | diisopropyl ether | 1.8 ml | C(C)(C)OC(C)C | C6H14O
product | (+)-methyl (R)-2-pentyl-2-cyclopenten-1-yl malonate | C(CC(=O)O[C@H]1C(=CCC1)CCCCC)(=O)OC | C14H22O4
